US07169926B1
A solution of toluene-4-sulfonic acid 1-methyl-3-nitro-2-oxo-1,2-dihydro-quinolin-4-yl ester (20.0 g, 53.42 mmol) in DMF (70 mL) was treated with a small excess of sodium azide (3.8 g, 59.0 mmol) and stirred at room temp for 17 h. The solvent was evaporated under reduced pressure. Then the reaction mixture was poured into 500 mL of ice water and the resulting precipitate was collected by suction filtration and dried in vacuo. The pure 4-azido-1-methyl-3-nitro-1H-quinolin-2-one was obtained (12.0 g, 92% yield). 1H-NMR (CDCl3): δ 8.16 (d, 1H, J=8.8 Hz), 7.75 (t, 1H, J=7.6 Hz), 7.42 (d, 1H, J=8.4 Hz), 7.36 (t, 1H, J=7.6 Hz), 3.79 (s, 3H). MS: calculated for C10H7N5O3+H 246.1; found: 246.2.

reactant | toluene-4-sulfonic acid 1-methyl-3-nitro-2-oxo-1,2-dihydro-quinolin-4-yl ester | 53.42 mmol, 20.0 g | CN1C(C(=C(C2=CC=CC=C12)OS(=O)(=O)C1=CC=C(C=C1)C)[N+](=O)[O-])=O | C17H14N2O6S
reactant | sodium azide | 59.0 mmol, 3.8 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 4-azido-1-methyl-3-nitro-1H-quinolin-2-one | 92% yield | N(=[N+]=[N-])C1=C(C(N(C2=CC=CC=C12)C)=O)[N+](=O)[O-] | C10H7N5O3
